US04156777
1.79 g (10.0 mmol) of 6-amino-6-deoxy-D-glucopyranose is dissolved in a mixture of 15 ml methanol and 5 ml dimethyl sulfoxide, and the solution is cooled to 0°-5° C. This solution is added dropwise to a solution prepared by dissolving 3.28 g (12.0 mmol) of o-nitrophenyl N-(2-chloroethyl)-N-nitrosocarbamate in 20 ml of tetrahydrofuran, while stirring, at 0°-5° C. over 30 minutes. The resultant mixture is stirred at the same temperature for a further 2 hours. The thus reacted solution is concentrated at 30° C. and below, under reduced pressure. To the oily residue produced is added 100 ml of ethyl ether and the mixture is left at 4° C. overnight. The crystals thereby obtained are washed with chloroform and then with ethyl ether, dried under reduced pressure, and recrystallized from anhydrous ethanol-n-hexane (4:1) to give 2.33 g of 3-(D-glucopyranos-6-yl)-1-(2-chloroethyl)-1-nitrosourea. Yield 74.3%. mp 102°-103° C. (decomp.). [α]D20 +55° (C 0.5, methanol; the value of +55° reduced to +31° after 22 hours). Analysis for C9H16N3O7Cl (MW 313.69):

reactant | 6-amino-6-deoxy-D-glucopyranose | 10.0 mmol, 1.79 g | NC[C@@H]1[C@H]([C@@H]([C@H](C(O)O1)O)O)O | C6H13NO5
reactant | o-nitrophenyl N-(2-chloroethyl)-N-nitrosocarbamate | 12.0 mmol, 3.28 g | ClCCN(C(OC1=C(C=CC=C1)[N+](=O)[O-])=O)N=O | C9H8ClN3O5
reactant | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | methanol | 15 ml | CO | CH4O
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(D-glucopyranos-6-yl)-1-(2-chloroethyl)-1-nitrosourea | 2.33 g, Yield 74.3% | OC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C(O)NC(N(N=O)CCCl)=O | C9H16ClN3O8
